US08067448B2
2-chloro-4-((1R,2S)-1-(5-(3-fluorophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile
To a solution of N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-3-fluorobenzohydrazide (1 g, 2.47 mmol) in anhydrous THF (15 mL) at room temperature was added 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine on polystyrene (3 mmol base/g) (3.37 g, 7.41 mmol) followed by para-toluene sulfonyl chloride (p-TSCl) (471 mg, 2.47 mmol) and the mixture was stirred for 1 h. The mixture was filtered under suction, the residue then washed with acetone (300 mL) followed by methanol (300 mL) and then concentrated to furnish a yellow oil (0.968 g). Purification by flash column chromatography [EtOAc-hexanes (1:1) as eluent] afforded the title compound as a white crystalline solid (101 mg, 10%). 1H NMR (400 MHz, d6-acetone, δ in ppm) 7.86-7.83 (m, 1H), 7.75-7.71 (m, 1H), 7.67-7.61 (m, 2H), 7.49 (d, J=9 Hz, 1H), 7.43-7.37 (m, 1H), 6.87 (d, J=9 Hz, 1H), 6.69 (d, J=9 Hz, 1H), 5.13 (m, 1H), 4.82 (br s, 1H), 4.67-4.59 (m, 1H), 2.41 (s, 3H) and 1.41 (d, J=6.5 Hz).

reactant | N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-3-fluorobenzohydrazide | 2.47 mmol, 1 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC(=CC=C1)F)=O)[C@H](C)O)C | C19H18ClFN4O3
reactant | 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine | C(C)(C)(C)NP1(N(CCCN1C)C)N(CC)CC | C13H33N4P
reactant | para-toluene sulfonyl chloride | 2.47 mmol, 471 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-((1R,2S)-1-(5-(3-fluorophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | 0.968 g | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC(=CC=C1)F | C19H16ClFN4O2
